US06372762B1
5-Tributylstannayl-3,3a,4,6a-tetrahydro-1H-pentalen-2-one, ethylene ketal (prepared using the same method as above, except using hexabutylditin) (3.00 g, 6.59 mmol), 2-bromobenzonitrile (1.26 g, 6.92 mmol), bis(acetonitrile)dichloropalladium (II) (0.085 g, 0.328 mmol), tri-o-tolylphosphine (0.20 g, 0.657 mmol), triethyl amine (1.0 mL, 7.17 mmol) and 2,6-di-tert-butyl-4-methylphenol (10 mg) in DMF (20 mL) were heated at 80-90° C. for 1h. The dark mixture was cooled, diluted with 1N lithium chloride solution (100 mL) and extracted with ether (2×75 mL). The extract was washed again with 1 N LiCl and brine, dried over magnesium sulfate and concentrated to a light orange oil. Flash chromatography on silica gel using a 10-20% ethyl acetate/hexanes gradient for elution yielded 0.778 g (44%) of 5-(2-cyano-phenyl)-3,3a,4,6a-tetrahydro-1H-pentalen-2-one, ethylene ketal as a light yellow oil which slowly solidified to a yellow solid which had the following properties: mp 36-37° C.; NMR (CDCl3) δ 7.62 (dd, J1=7.7 Hz, J2=1.1 Hz, 1H), 7.50 (dd, J1=7.7 Hz, J2=1.4 Hz, 1H), 7.36 (d, J=7.1 Hz, 1H), 7.28 (dt, J1=7.6 Hz, J2=1.2 Hz, 1H), 6.35-6.33 (m, 1H), 3.93-3.85 (m, 4H), 3.48-3.40 (m, 1H), 3.14-3.04 (m, 1H), 2.93 (doublet of pentuplets, J1=8.3 Hz, J2=2.5 Hz, 1H), 2.61 (br d, J=15.9 Hz, 1H), 2.15-2.03 (m, 2H), 1.82-1.60 (m, 2H); 13C NMR (CDCl3) δ 140.75, 137.73, 136.33, 134.03, 132.48, 128.17, 127.01, 117.91, 109.95, 64.74, 64.02, 48.61, 42.41, 41.66, 40.00, 38.08; IR(KBr) 2960, 2889, 2851, 2225, 1595, 1487, 1444, 1348, 1348, 1327, 1318, 1244, 1107, 1083, 1037, 1018, 994, 947; Anal. calculated for C17H17NO2: C, 76.38; H, 6.41; N, 5.24. Found: C, 75.96; H, 7.04; N, 4.99.

reactant | hexabutylditin | CCCC[Sn](CCCC)CCCC.CCCC[Sn](CCCC)CCCC
reactant | 2-bromobenzonitrile | 6.92 mmol, 1.26 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | tri-o-tolylphosphine | 0.657 mmol, 0.20 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethyl amine | 7.17 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | lithium chloride | 1N, 100 mL | [Cl-].[Li+]
catalyst | bis(acetonitrile)dichloropalladium | 0.328 mmol, 0.085 g | CC#N.CC#N.Cl[Pd]Cl
catalyst | 2,6-di-tert-butyl-4-methylphenol | 10 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
product | 5-(2-cyano-phenyl)-3,3a,4,6a-tetrahydro-1H-pentalen-2-one | 0.778 g, 44% | C(#N)C1=C(C=CC=C1)C=1CC2CC(CC2C1)=O | C15H13NO
